US07132425B2
A solution of the 5-[[bis[(1,1-dimethylethoxy)carbonyl]]amino]-N-hydroxy-2-pyrazinecarboximidamide (77.0 mg, 0.218 mmol) in pyridine (2 mL) at 25° C. was treated with 9-fluorenylmethyl chloroformate (68.0 mg, 0.263 mmol). The reaction mixture was stirred at 25° C. for 45 min. The reaction mixture was then diluted with ethyl acetate, water, and a saturated aqueous sodium chloride solution. The mixture was shaken and separated. The aqueous layer was extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 1/9 to 1/1 ethyl acetate/hexanes) afforded the desired 5-[[bis[(1,1-dimethylethoxy)carbonyl]]amino]-N-[[[(9H-fluoren-9-yl)methoxy]carbonyl]oxy]-2-pyrazine carboximidamide. This material was dissolved in methylene chloride (0.5 mL). The solution was cooled to 0° C. and then was treated with trifluoroacetic acid (0.16 mL, 2.077 mmol). The reaction mixture was stirred at 0° C. for 30 min and at 25° C. for 30 min. The reaction mixture was then treated with additional trifluoroacetic acid (1.0 mL, 12.99 mmol) and stirred at 25° C. for 2 h. The reaction mixture was further treated with trifluoroacetic acid (1.0 mL, 12.99 mmol) and stirred at 25° C. for 2 h. The reaction mixture was then diluted with methylene chloride, washed three times with a saturated aqueous sodium bicarbonate solution, dried over anhydrous sodium sulfate, filtered, concentrated in vacuo, and then dried under high vacuum to afford 5-amino-N-[[[(9H-fluoren-9-yl)methoxy]carbonyl]oxy]-2-pyrazinecarboximidamide (36.7 mg, 44.9%) as a white solid: LRMS for C20H17N5O3 (M+H)+ at m/z=376

reactant | 5-[[bis[(1,1-dimethylethoxy)carbonyl]]amino]-N-hydroxy-2-pyrazinecarboximidamide | 0.218 mmol, 77.0 mg | CC(C)(OC(=O)N(C=1N=CC(=NC1)C(NO)=N)C(=O)OC(C)(C)C)C | C15H23N5O5
reactant | 9-fluorenylmethyl chloroformate | 0.263 mmol, 68.0 mg | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-[[bis[(1,1-dimethylethoxy)carbonyl]]amino]-N-[[[(9H-fluoren-9-yl)methoxy]carbonyl]oxy]-2-pyrazine carboximidamide | CC(C)(OC(=O)N(C=1N=CC(=NC1)C(NOC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)=N)C(=O)OC(C)(C)C)C | C30H33N5O7
